US07138425B2
c) 2-[4-Propoxy-5-(5-phenylbenzoxazol-2-yl)phenyl]-1,3-dioxo-2,3-dihydro-1H-isoindole-5-carboxylic acid
Prepared by the method of Example 1b), from 2-(5-nitro-2-propoxyphenyl)-5-phenylbenzoxazole (125 mg, 0.36 mmol) and 1,2,4-benzenetricarboxylic anhydride (68 mg, 0.36 mmol) the title compound was obtained (37 mg, 21%). 1H NMR (DMSO) δ 8.47(d, 1H), 8.38(s, 1H), 8.25(d, 1H), 8.13(m, 2H), 7.89(d, 1H), 7.76(m, 4H), 7.49(m, 4H), 4.27(t, 2H), 1.92(m, 2H), 1.15(t, 3H). MS 519 m/z (M+H)+.

reactant | 2-(5-nitro-2-propoxyphenyl)-5-phenylbenzoxazole | 0.36 mmol, 125 mg | [N+](=O)([O-])C=1C=CC(=C(C1)C=1OC2=C(N1)C=C(C=C2)C2=CC=CC=C2)OCCC | C22H18N2O4
reactant | 1,2,4-benzenetricarboxylic anhydride | 0.36 mmol, 68 mg | C1=CC2=C(C=C1C(=O)O)C(=O)OC2=O | C9H4O5
product | 2-[4-Propoxy-5-(5-phenylbenzoxazol-2-yl)phenyl]-1,3-dioxo-2,3-dihydro-1H-isoindole-5-carboxylic acid | C(CC)OC1=CC=C(C=C1C=1OC2=C(N1)C=C(C=C2)C2=CC=CC=C2)N2C(C1=CC=C(C=C1C2=O)C(=O)O)=O | C31H22N2O6
